US09120822B2
Diisopropylazodicarboxylate (0.76 g, 3.80 mmol, 1.7 eq) is added at room temperature to a stirred solution of {trans-4-[2-hydroxy-1-(3-hydroxy-6-methoxy-quinolin-4-ylmethyl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester (1.08 g, 2.26 mmol, 1.0 eq) and triphenylphosphine (1.90 g, 7.53 mmol, 3.33 eq) in tetrahydrofuran (120 mL). After 1 hour stirring at room temperature, solvent is evaporated to give a crude product that is purified by preparative HPLC to afford [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester as a white lyophilizated powder (670 mg, 71% yield).

reactant | Diisopropylazodicarboxylate | 3.80 mmol, 0.76 g, 1.7 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | {trans-4-[2-hydroxy-1-(3-hydroxy-6-methoxy-quinolin-4-ylmethyl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester | 2.26 mmol, 1.08 g, 1.0 eq | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(CO)CC1=C(C=NC2=CC=C(C=C12)OC)O)=O | C24H34N2O5
reactant | triphenylphosphine | 7.53 mmol, 1.90 g, 3.33 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C1COC=2C=NC3=CC=C(C=C3C2C1)OC)=O | C24H32N2O4
